US04705853
2,5-Dichloro-6-methyl-3-pyridinecarboxylic acid
To 5 g (0.027 mole) of 5-chloro-2-hydroxy-6-methyl-3-pyridinecarboxylic acid was added 35 g of phenylphosphonic dichloride. The mixture was heated to 135° C. for 1.5 hr. After cooling, the reaction solution was poured carefully into 250 ml of water and stirred for 1 hr. The water was extracted with 3×100 ml of methylene chloride. The combined organic extracts were washed with 2×100 ml of water, dried over sodium sulfate, filtered, concentrated by rotary evaporation, taken up in toluene, charcoaled, and concentrated by rotary evaporation. The crude residue was crystallized from hexane to give 1.7 g (31%) of beige analytically pure crystals, m.p. 123°-38° C. with decomposition.

reactant | 5-chloro-2-hydroxy-6-methyl-3-pyridinecarboxylic acid | 0.027 mole, 5 g | ClC=1C=C(C(=NC1C)O)C(=O)O | C7H6ClNO3
reactant | phenylphosphonic dichloride | 35 g | C1(=CC=CC=C1)P(=O)(Cl)Cl | C6H5Cl2OP
solvent | water | 250 ml | O | H2O
product | 2,5-Dichloro-6-methyl-3-pyridinecarboxylic acid | ClC1=NC(=C(C=C1C(=O)O)Cl)C | C7H5Cl2NO2
